US04242510
p-Toluenesulfonic acid (0.40 g.) was added to a solution of ethyl 2-allyloxyimino-4-(2-hydroxyethylthio)-3-oxovalerate (4.30 g.) in toluene (43 ml.), and refluxed under heating for 20 minutes while removing the produced water. After cooling, ethyl acetate (10 ml.) was added to the resultant solution and washed with water (40 ml.) twice. The solution was dried over magnesium sulfate and concentrated in vacuo to give oily residue (3.3 g.). The residue was subjected to column chromatography on silica gel and eluted with chloroform. The eluate was concentrated in vacuo to give ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetate (2.92 g.).

reactant | p-Toluenesulfonic acid | 0.40 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl 2-allyloxyimino-4-(2-hydroxyethylthio)-3-oxovalerate | 4.30 g | C(C=C)ON=C(C(=O)OCC)C(C(C)SCCO)=O | C12H19NO5S
solvent | toluene | 43 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetate | 2.92 g | O1CCSC=C1C(C(=O)OCC)=NOCC=C | C11H15NO4S
